US06313299B1
7-[2-(t-butoxycarbonyl)-8-(methoxyimino)-2,6-diazaspiro[3,4]oct-6-yl]-1-cyclopropyl-6-fluoro-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid.
1-cyclopropyl-6,7-difluoro-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid and 840 mg of t-butyl 8-(methoxyimino)-2,6-diazaspiro[3,4]octane-2-carboxylate were added to 10 ml of acetonitrile and the resulting mixture was refluxed for 3 hours. Then the precipitated solid was filtered and dried to give 340 mg of the titled compound(yield: 46.4%).

reactant | 1-cyclopropyl-6,7-difluoro-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
reactant | t-butyl 8-(methoxyimino)-2,6-diazaspiro[3,4]octane-2-carboxylate | 840 mg | CON=C1CNCC12CN(C2)C(=O)OC(C)(C)C | C12H21N3O3
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 7-[2-(t-butoxycarbonyl)-8-(methoxyimino)-2,6-diazaspiro[3,4]oct-6-yl]-1-cyclopropyl-6-fluoro-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid | 340 mg, yield: 46.4% | C(C)(C)(C)OC(=O)N1CC2(C1)CN(CC2=NOC)C2=C(C=C1C(C(=CN(C1=C2)C2CC2)C(=O)O)=O)F | C25H29FN4O6
